US07582626B2
b′) 2,5-Diamino-benzenesulfonamide
A mixture of 2-benzylamino-5-nitro-benzenesulfonamide (15 g, 48.81 mmol) and 5% palladium on activated carbon powder (wet, nominally 50% water, 6 g) in methanol (500 mL) was heated to 55° C. The mixture was degassed while stirring and the flask was charged with hydrogen gas via balloon. After stirring for 16 h under 1 atmosphere of hydrogen gas, the reaction was filtered through Celite and concentrated in vacuo to afford the desired product, 2,5-diamino-benzenesulfonamide (8.55 g, 45.67 mmol, 93.6%) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ: 4.56 (2H, bs), 4.98 (2H, bs), 6.58-6.59 (2H, m), 6.87 (1H, d, J=1.6 Hz), 7.00 (2H, s). LC-MS (ESI) calcd for C6H9N3O2S 187.04, found 188.2 [M+H+].

reactant | 2-benzylamino-5-nitro-benzenesulfonamide | 48.81 mmol, 15 g | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N | C13H13N3O4S
reactant | water | O | H2O
catalyst | palladium on activated carbon | [Pd] | Pd
solvent | methanol | 500 mL | CO | CH4O
product | 2,5-diamino-benzenesulfonamide | 45.67 mmol, 8.55 g, 93.6% | NC1=C(C=C(C=C1)N)S(=O)(=O)N | C6H9N3O2S
